US06423870B1
Step A: Diethyl2-[(2-methoxy-1-naphthyl)methylene]malonate
2-Methoxy-1-naphthaldehyde (25 g, 1.34.10−1 mol) in benzene (200 ml) is heated for 20 hours at reflux in the presence of diethyl malonate (25 ml, 1.65.10−1 mol, 1.23 eq.) and piperidine (2 ml, 2.02.10−2 mol, 0.15 eq.) in a Dean-Stark apparatus. After adding a few additional drops of piperidine, the mixture is returned to reflux for 20 hours. The reaction mixture is diluted with toluene (200 ml) and washed with water (125 ml). After separation of the phases, the organic phase is treated with a 1N hydrochloric acid solution (190 ml), then with a saturated NaHCO3 solution (125 ml) and with a saturated NaCl solution (125 ml). After drying over MgSO4 and evaporation under reduced pressure, the oil obtained is recrystallised from cyclohexane.

reactant | 2-Methoxy-1-naphthaldehyde | 25 g | COC1=C(C2=CC=CC=C2C=C1)C=O | C12H10O2
reactant | diethyl malonate | 25 ml, 1.23 eq. | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | piperidine | 2 ml, 0.15 eq. | N1CCCCC1 | C5H11N
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Diethyl2-[(2-methoxy-1-naphthyl)methylene]malonate | C(C)OC(C(C(=O)OCC)=CC1=C(C=CC2=CC=CC=C12)OC)=O | C19H20O5
